US07259266B2
Step 1. Preparation of ethyl 7-(3,4-difluorobenzyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of Pd(dba)2 (57.5 mg, 0.100 mmole) and tfp (46.7 mg, 0.201 mmole) in anhydrous THF (10.0 mL) was stirred at room temperature for 20 minutes and then cooled to 0° C. Ethyl 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 9a, Step 2 (2.00 g, 5.02 mmole) was added as a solid, followed by a solution of 3,4-difluorobenzyl zinc bromide in anhydrous THF (20.0 mL-0.5 M, 0.100 mmole) added dropwise over 5 minutes. The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 24 h and was then poured into sat. NH4Cl (100 mL) and extracted with EtOAc (2×200 mL). The combined extracts were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo to give 3.45 g of an orange oil. The crude product was purified by silica chromatography (92.5:7.5 hexanes:EtOAc) to give 1.81 g (91 % yield) of the product as a yellow oil: EIHRMS m/z 398.0955 (M+, C20H15F5O3, Calc'd 398.0941).

reactant | Ethyl 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H10F3IO3
reactant | 3,4-difluorobenzyl zinc bromide | [Br-].FC=1C=C(C[Zn+])C=CC1F
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(dba)2 | 0.100 mmole, 57.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | THF | 0.100 mmole | C1CCOC1 | C4H8O
product | ethyl 7-(3,4-difluorobenzyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 3.45 g | FC=1C=C(CC2=CC=C3C=C(C(OC3=C2)C(F)(F)F)C(=O)OCC)C=CC1F | C20H15F5O3
